US08030499B2
Step 106-1: Synthesis of 3-hydroxy-5-iodo-3-(2-methylphenyl)-1,3-dihydro-2H-indol-2-one
With 5.46 g of 5-iodoisatin and 1-bromo-2-methyl benzene as starting materials, 5.87 g of the title compound (brown solid) was obtained by a similar method to Step 21-1.

reactant | 5-iodoisatin | 5.46 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 1-bromo-2-methyl benzene | BrC1=C(C=CC=C1)C | C7H7Br
product | 3-hydroxy-5-iodo-3-(2-methylphenyl)-1,3-dihydro-2H-indol-2-one | 5.87 g | OC1(C(NC2=CC=C(C=C12)I)=O)C1=C(C=CC=C1)C | C15H12INO2
